US06753329B2
Synthesis of 1-(2,6-Dichlorophenyl)-6-(4-hydroxybenzyl)-3-isopropyl-1,5-dihydropyrazolo[3,4-d]pyrimidin-4-one
To a suspension of 5-amino-1-(2,6-dichlorophenyl)-3-isopropyl-1H-pyrazole-4-carboxylic acid amide (5.0 g, 16 mmol) in EtOH (20 mL) was added ethyl 4-hydroxyphenylacetate (8.6 g, 48 mmol) followed by NaOEt (2.66M in EtOH, 36 mL, 96 mmol). The reaction was then heated to reflux for 3 h. The reaction was then cooled to room temp and poured onto 10% aq. HOAc (100 mL). The resulting suspension was then cooled to 0° C. and filtered. The precipitate was then washed with 1:1 MeOH/H2O (100 mL) and 1:1 Et2O/hexane (75 mL). The solid was then dried under vacuum to yield the desired product (5.2 g, 76%).

reactant | 5-amino-1-(2,6-dichlorophenyl)-3-isopropyl-1H-pyrazole-4-carboxylic acid amide | 16 mmol, 5.0 g | NC1=C(C(=NN1C1=C(C=CC=C1Cl)Cl)C(C)C)C(=O)N | C13H14Cl2N4O
reactant | ethyl 4-hydroxyphenylacetate | 48 mmol, 8.6 g | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | NaOEt | 96 mmol, 2.66M, 36 mL | CC[O-].[Na+]
reactant | HOAc | 100 mL | CC(=O)O | C2H4O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-(2,6-Dichlorophenyl)-6-(4-hydroxybenzyl)-3-isopropyl-1,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | 5.2 g, 76% | ClC1=C(C(=CC=C1)Cl)N1N=C(C2=C1N=C(NC2=O)CC2=CC=C(C=C2)O)C(C)C | C21H18Cl2N4O2
